US06451814B1
4-[Acetyl-(4-{2-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenyl)-amino]-piperidine-1-carboxylic Acid Octylamide
4-[Acetyl-4-(2-aminoethyl)anilino]-N-octyl-1-piperidinecarboxamide formate (0.25 g, 0.59 mmol) was reacted with (2S)-2-{[4-(benzyloxy)phenoxy]methyl}oxirane (0.137 g, 0.53 mmol) according to Procedure G to give the title compound (eluant: 20:1 chloroform-methanol) (0.1 g, 0.15 mmol).

reactant | 4-[Acetyl-4-(2-aminoethyl)anilino]-N-octyl-1-piperidinecarboxamide formate | 0.59 mmol, 0.25 g | C(=O)O.C(C)(=O)N(C1=CC=C(C=C1)CCN)C1CCN(CC1)C(=O)NCCCCCCCC
reactant | (2S)-2-{[4-(benzyloxy)phenoxy]methyl}oxirane | 0.53 mmol, 0.137 g | C(C1=CC=CC=C1)OC1=CC=C(OC[C@H]2OC2)C=C1 | C16H16O3
product | 4-[Acetyl-(4-{2-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenyl)-amino]-piperidine-1-carboxylic Acid Octylamide | 0.15 mmol, 0.1 g | C(CCCCCCC)NC(=O)N1CCC(CC1)N(C1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O)C(C)=O | C33H50N4O5
